US04727081
N-[3-[3-(4-Morpholinylmethyl)phenoxy]propyl]-1,3,4-thiadiazole-2.5-diamine
The compound is prepared by a method analogous to that of Example 51 from 3-[3-(4-morpholinylmethyl)phenoxy]1-propanamine and 5-bromo-1,3,4-thiadiazole-2-amine.

reactant | 3-[3-(4-morpholinylmethyl)phenoxy]1-propanamine | N1(CCOCC1)CC=1C=C(OCCCN)C=CC1 | C14H22N2O2
reactant | 5-bromo-1,3,4-thiadiazole-2-amine | BrC1=NN=C(S1)N | C2H2BrN3S
product | N-[3-[3-(4-Morpholinylmethyl)phenoxy]propyl]-1,3,4-thiadiazole-2.5-diamine | N1(CCOCC1)CC=1C=C(OCCCNC=2SC(=NN2)N)C=CC1 | C16H23N5O2S
